US04556738
In a closed vessel equipped with a thermometer and a stirrer there are charged 105 g (0.3 moles) of 4-bromo-3,4'-dinitro benzophenone, 5 g of 5% palladium/active carbon catalyst (from Nihon-Engelhardt Co.) and 300 ml of dioxane. At 70°-80° C., with the mixture being stirred, there is introduced 41 l (1.83 moles) of hydrogen so as to be absorbed in the mixture in about 11 hours. Following cooling the mixture to 30° C., there is added 38.5 g (0.33 moles) of 30% ammonia water. Then, again with the mixture being stirred, at 30°-40° C., there is introduced an additional amount of hydrogen, 7.2 l (0.32 moles), during seven hours. The reaction liquid is filtered at 30°-40° C. to remove the catalyst and then allowed to cool giving yellow crystals of 3,4'-diamino benzophenone. The crystals are filtered, washed with 30 ml of 50% aqueous dioxane solution and dried. Yield 58 g (91%). M.P. 121°-123° C.

reactant | 4-bromo-3,4'-dinitro benzophenone | 0.3 moles, 105 g | BrC1=C(C=C(C(=O)C2=CC=C(C=C2)[N+](=O)[O-])C=C1)[N+](=O)[O-] | C13H7BrN2O5
reactant | hydrogen | 1.83 moles, 41 l | [H][H] | H2
reactant | ammonia water | 0.33 moles, 38.5 g | O.N
catalyst | palladium | 5 g | [Pd] | Pd
solvent | dioxane | 300 ml | O1CCOCC1 | C4H8O2
product | 3,4'-diamino benzophenone | NC=1C=C(C(=O)C2=CC=C(C=C2)N)C=CC1 | C13H12N2O
